US05750540
N-[1-(4-Methyl -3-pentenyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-(4-pyrimidinyl)acetamide
0.65 ml of a 1M trimethylaluminum solution in hexane was added to a solution of 85 mg of 4-amino-1-(4-methyl-pentenyl)piperidine dihydrochloride in 5 ml of toluene under cooling with ice, and this mixture was stirred at the same temperature for 2 hours. A solution of 29 mg of ethyl 2-cyclopentyl-2-hydroxy-2-(4-pyrimidinyl)acetate in 3 ml of toluene was added to the reaction mixture. The resulting mixture was stirred at 100° C. for 18 hours, mixed with 1N hydrochloric acid under cooling with ice, made alkaline with a saturated aqueous solution of sodium bicarbonate, and extracted with chloroform. The organic layer was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. After the solvent was distilled off, the resulting residue was purified by preparative thin layer chromatography [Kieselgel™ 60F254, Art 5744 (manufactured by E. 35 Merck); developing solvent: chloroform/methanol=9/1] to obtain 6 mg of the title compound.

reactant | trimethylaluminum | 1M | C[Al](C)C
reactant | 4-amino-1-(4-methyl-pentenyl)piperidine dihydrochloride | 85 mg | Cl.Cl.NC1CCN(CC1)C=CCC(C)C
reactant | ethyl 2-cyclopentyl-2-hydroxy-2-(4-pyrimidinyl)acetate | 29 mg | C1(CCCC1)C(C(=O)OCC)(C1=NC=NC=C1)O | C13H18N2O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-[1-(4-Methyl -3-pentenyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-(4-pyrimidinyl)acetamide | 6 mg | CC(=CCCN1CCC(CC1)NC(C(C1=NC=NC=C1)(O)C1CCCC1)=O)C | C22H34N4O2
